* /Users/skylar/Desktop/Digilog_Console/Analog Design/2 Design - EQ/2 VCF/vcf.asc
* Generated by LTspice 26.0.2 for MacOS.
X§U1 0 N002 N001 N009 HP NE5532 ;§pnba In+)In-)V+)V-)OUT
Vcc N001 0 18
Vee N009 0 -18
Vin IN 0 0 AC 1 0
R1 N002 IN 100k
X§U2 0 N003 N001 N009 BP NE5532 ;§pnba In+)In-)V+)V-)OUT
X§U3 0 N004 N001 N009 LP NE5532 ;§pnba In+)In-)V+)V-)OUT
R4 HP N002 10k
C1 BP N003 3.2n
C2 LP N004 3.2n
R2 N002 LP 10k
R3 N002 N005 10k
X§U4 0 N008 N001 N009 N005 NE5532 ;§pnba In+)In-)V+)V-)OUT
R8 N005 N008 10k
R7 N008 BP 100k
R5 N006 HP 10k
R6 N007 BP 10k
R5_divider N006 0 100
R6_divider N007 0 100
X§U5 NC_01 N006 0 N010 N003 N001 N009 NC_02 NC_03 HALF13700 ;§pnba LIN)INP)INN)IAB))VCC)VSS)BIN)BUF
X§U6 NC_04 N007 0 N012 N004 N001 N009 NC_05 NC_06 HALF13700 ;§pnba LIN)INP)INN)IAB))VCC)VSS)BIN)BUF
R9 N011 N010 1
R10 N012 N011 1
V1 N013 0 -10
R11 N011 N013 20k
.include NE5532.sub
* Summing
* Integrator 1
* Integrator 2
* R1 = 1/k\nR7 = Q
.ac dec 100 10 100k
* In reality, add bias compensation resistors to In+
.include LM13700.sub
* Freq control: Replace R5,R6 (integrator input resistors) with OTAs
* small signal dac -> gain
.backanno
.end
